US09353121B2
A mixture of anisaldehyde (350 μL, 2.87 mmol, 1.0 equ.), malononitrile (190 mg, 2.87 mmol, 1.0 equ.) and triethylamine (400 μL, 2.87 mmol, 1.0 equ.) in ethanol (10 mL) was stirred for 1 min, followed by the addition of 3-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-5(4H)-one (764 mg, 2.87 mmol, 1 equ.). The reaction mixture was concentrated after 24 h and the precipitate was washed with ethanol and hexanes, and then re-crystallized from ethanol to give 6-amino-3,4-bis(4-methoxyphenyl)-1-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile (1.06 g, 2.35 mmol, 82%) as a white solid. 1H-NMR (400 MHz) DMSO: 7.93-7.91 (d, 2H), 7.56-7.52 (m, 4H), 7.38-7.35 (t, 1H), 7.15-7.11 (m, 4H), 6.83-6.78 (m, 4H), 4.98 (s, 1H), 3.70 (s, 3H), 3.66 (s, 3H), 13C-NMR (100 MHz) DMSO: 159.5, 158.9, 158.4, 146.6, 145.5, 137.9, 136.6, 129.8, 129.0, 128.3, 127.0, 125.2, 121.0, 120.4, 114.2, 114.1, 97.7, 60.3, 55.5, 55.3, 37.1; LC/MS-MS: 452.3→89.1 m/z; GS1 and GS2 at 30, DP=36, CE=39, CXP=4, tR=3.47 min.

reactant | anisaldehyde | 2.87 mmol, 350 μL | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | malononitrile | 2.87 mmol, 190 mg | C(CC#N)#N | C3H2N2
reactant | triethylamine | 2.87 mmol, 400 μL | C(C)N(CC)CC | C6H15N
reactant | 3-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-5(4H)-one | 2.87 mmol, 764 mg | COC1=CC=C(C=C1)C1=NN(C(C1)=O)C1=CC=CC=C1 | C16H14N2O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-amino-3,4-bis(4-methoxyphenyl)-1-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile | 2.35 mmol, 1.06 g, 82% | NC1=C(C(C2=C(N(N=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)O1)C1=CC=C(C=C1)OC)C#N | C27H22N4O3
